Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PCP:
Name: ___ MD 
Location: ___ 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 

HOSPITALIST ADMISSION NOTE

HPI:
Mr. ___ is a ___ yo M with poorly controlled DM2, HTN, HL, 
with CKD who presents with headache, mild confusion, 
uncontrolled HTN, and hyperglycemia.  He states that for various 
work reasons he has not taken his medications or his blood sugar 
for the past ___ months.  Over the last week, he has felt 
fatigued, "woozy", confused, and has had an intermittent frontal 
HA with blurriness of vision.  He went to work yesterday and was 
not even able to ___ to his computer.  He felt confused and 
his coworkers took him into the hospital.  In addition to the 
above, he reports urinary frequency.  He denies F/C, double 
vision, sore throat, CP, SOB, cough, n/v/d, bloody/black stool, 
leg pain or swelling.  He reports good appetite.  He reports 
numbness in his feet, but otherwise denies any focal weakness.

In the ED, SBP 200s requiring labetalol, FSBG 500s.  Labs, CXR, 
and CT head performed.  ___ was consulted and patient was 
initiated on glargine and Humalog insulin.

PCP is ___ ___

10 point review of systems reviewed, otherwise negative except 
as listed above
 
Past Medical History:
type 2 diabetes mellitus, last A1C ___ 8.9%
HTN
HL
CKD stage II-III

 
Social History:
___
Family History:
___.  Mother with diabetes
 
Physical Exam:
VS: T 98.7, BP 157/81, HR 85, RR 18, 100%RA
GEN: well appearing talkative in NAD
HEENT: MMM, OP clear, anicteric sclera, poor dentition
NECK: supple no LAD
HEART: RRR no mrg
LUNG: CTAB no wheezes or crackles
ABD: sfot NT/ND +BS no rebound or guarding
EXT: warm well perfused no pitting edema, skin dry and cracked
SKIN: skin dry and cracked over feet no bruising
NEURO: CNII-XII intact.  strength ___ symmetric.  gross 
sensation intact.  no dysmetria.  ? mild R pronator drift.  
Proprioception intact bilateral ___ toe
 
Pertinent Results:
___ 07:37PM   GLUCOSE-286* UREA N-27* CREAT-1.9* SODIUM-135 
POTASSIUM-3.9 CHLORIDE-100 TOTAL CO2-24 ANION GAP-15
___ 07:37PM   cTropnT-0.02*
___ 11:19AM   ___ PO2-40* PCO2-42 PH-7.38 TOTAL CO2-26 
BASE XS-0
___ 11:00AM   GLUCOSE-510* UREA N-27* CREAT-2.0* 
SODIUM-129* POTASSIUM-4.7 CHLORIDE-93* TOTAL CO2-22 ANION GAP-19
___ 11:00AM   estGFR-Using this
___ 11:00AM   CK(CPK)-231
___ 11:00AM   cTropnT-0.02*
___ 11:00AM   CK-MB-4
___ 11:00AM URINE  HOURS-RANDOM
___ 11:00AM URINE  HOURS-RANDOM
___ 11:00AM URINE  UHOLD-HOLD
___ 11:00AM URINE  GR HOLD-HOLD
___ 11:00AM   WBC-11.2* RBC-4.07* HGB-12.1* HCT-35.9* 
MCV-88 MCH-29.7 MCHC-33.7 RDW-11.7 RDWSD-37.5
___ 11:00AM   NEUTS-92.1* LYMPHS-6.1* MONOS-1.0* EOS-0.1* 
BASOS-0.3 IM ___ AbsNeut-10.35* AbsLymp-0.68* AbsMono-0.11* 
AbsEos-0.01* AbsBaso-0.03
___ 11:00AM   PLT COUNT-220
___ 11:00AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:00AM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-300 
GLUCOSE-1000 KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 11:00AM URINE  RBC-10* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0

EKG, my review: NSR, LAD, LVH with repolarization changes.  
Similar to prior EKG reviewed.

CXR, my review: No infiltrate or edema or acute processes

CT head x2: negative

DC LABS:

___ 08:00AM BLOOD WBC-6.3 RBC-3.86* Hgb-11.6* Hct-38.0* 
MCV-98# MCH-30.1 MCHC-30.5* RDW-11.9 RDWSD-42.9 Plt ___
___ 08:00AM BLOOD Glucose-321* UreaN-35* Creat-2.1* Na-136 
K-4.1 Cl-100 HCO3-23 AnGap-17
___ 09:23AM BLOOD %HbA1c-13.4* eAG-338*
 
Brief Hospital Course:
___ yo M with poorly controlled DM2, HTN, HL, presents with 
subacute fatigue, lethargy/confusion, and HA, found to have 
hypertensive urgency, ARF, and hyperglycemia.

Lethargy/Encephalopathy
Poorly controlled DM2 with nephropathy/neuropathy
Hypertensive urgency/Malignancy hypertension
The patient' symptoms were consistent with uncontrolled DM2 and 
HTN causing hypertensive urgency and encephalopathy.  He also 
had ARF.  There was no evidence of infection, cardiac ischemia, 
or acute stroke.  The above were likely exacerbated by poor 
adherence to his medication for the last year.  Clinically he 
improved with blood pressure and FSBG control.  ___ was 
involved.  He was placed on Lantus monotherapy at 25 units qHS 
as well as Glipizide 10mg BID.  Metformin was held due to his 
renal failure.  His A1c was found to be >13.  He will follow up 
with ___ for his diabetes.

Hi blood pressure improved markedly with initiation of his 
amlodipine.  His HCTZ and ACEi were not restarted due to his 
renal failure.  Further titration will be necessary.
- of note he had microscopic hematuria on UA.  This requires 
follow up 

HL:
Resumed statin.  LFTs normal.

 
Medications on Admission:
HAS NOT TAKEN IN LAST 10 MONTHS:
amlodipine 5 qd
atrova 10 qhs
glipizide 5 qd
hctz 50 qd
lisinopril 40 qd
metformin 500 BID
ASA 81mg daily

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0
2. Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
3. Glargine 25 Units Bedtime
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) AS DIR 
25 Units before BED; Disp #*3 Syringe Refills:*0
4. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
5. GlipiZIDE 10 mg PO BID 
RX *glipizide 10 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertensive urgency
Type 2 diabetes mellitus with nephropathy
Acute kidney injury
CKD stage III

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with very high blood pressure and high blood 
sugars causing headache and fatigue.  This improved with 
medication and IV fluids.  It is very important that you take 
your medications every day and as prescribed.  Please also check 
your blood sugars ___ times per  day and keep a log for when you 
see your diabetes doctor.
 
Followup Instructions:
___